US07446199B2
5-Bromo-1H-pyrrolo[2,3-b]pyridine-3-carboxylic acid (2,3-difluoro-phenyl)-amide
To a suspension of 5-bromo-1H-pyrrolo[2,3-b]pyridine-3-carboxylic acid (950 mg, 3.94 mmol) in DCM (20 mL) and DMF (0.1 mL) was added oxalyl chloride (600 mg, 4.72 mmol) slowly. The mixture was stirred at RT for 1 h. To this suspension was then added a solution of 2,3-difluorophenyl amine (610 mg, 4.72 mmol) and triethylamine (800 mg, 7.91 mmol) in DCM (5 mL). The reaction was kept at RT for another 2 h. The solvent was then evaporated, the residue was washed water, and dried for direct use. MS (ES+): m/e=352 (M+H); LC: 3.5 min.

reactant | 5-bromo-1H-pyrrolo[2,3-b]pyridine-3-carboxylic acid | 3.94 mmol, 950 mg | BrC=1C=C2C(=NC1)NC=C2C(=O)O | C8H5BrN2O2
reactant | oxalyl chloride | 4.72 mmol, 600 mg | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 2,3-difluorophenyl amine | 4.72 mmol, 610 mg | FC1=C(C=CC=C1F)N | C6H5F2N
reactant | triethylamine | 7.91 mmol, 800 mg | C(C)N(CC)CC | C6H15N
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
solvent | DMF | 0.1 mL | CN(C)C=O | C3H7NO
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | 5-Bromo-1H-pyrrolo[2,3-b]pyridine-3-carboxylic acid (2,3-difluoro-phenyl)-amide | FC1=C(C=CC=C1F)NC(=O)C1=CNC2=NC=C(C=C21)Br | C14H8BrF2N3O
